US07259175B2
3-(4-Mercapto-2-methyl-phenyl)-propionic acid-methyl ester (126 mg, 0.600 mmol) is dissolved into anhydrous acetonitrile (ACN) (2 mL). Cesium carbonate (326 mg, 1.00 mmol) is added to the reaction, followed by the addition of 5-Chloromethyl-4-phenoxymethyl-2-(4-trifluoromethyl-phenyl)-thiazole (200 mg, 0.5211 mmol). The reaction is allowed to stir under nitrogen at room temperature and monitored by TLC and HPLC. Upon complete consumption of the chloride, the reaction is diluted with diethyl ether and quenched with 0.1N NaOH. The two phases are separated, then the organic layer washed with water and brine. The organic phase is dried over anhydrous sodium sulfate and concentrated under vacuum. The residue is further purified using either EtOAc/Hexanes (1:9) or Acetone/Hexanes (1:9) gradients on silica gel chromatography to yield 3-{2-Methyl-4-[4-phenoxymethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethylsulfanyl]-phenyl}-propionic acid methyl ester (100 mg, 0.1796 mmol) or 30%.

reactant | 3-(4-Mercapto-2-methyl-phenyl)-propionic acid-methyl ester | 0.600 mmol, 126 mg | COC(CCC1=C(C=C(C=C1)S)C)=O | C11H14O2S
reactant | Cesium carbonate | 1.00 mmol, 326 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-Chloromethyl-4-phenoxymethyl-2-(4-trifluoromethyl-phenyl)-thiazole | 0.5211 mmol, 200 mg | ClCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)COC1=CC=CC=C1 | C18H13ClF3NOS
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 3-{2-Methyl-4-[4-phenoxymethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethylsulfanyl]-phenyl}-propionic acid methyl ester | 0.1796 mmol, 100 mg | COC(CCC1=C(C=C(C=C1)SCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)COC1=CC=CC=C1)C)=O | C29H26F3NO3S2
